US07728021B2
Nitrogen is bubbled for 5 min. To a mixture made up of 0.20 g (0.48 mmol) of N-(4-iodobenzyl)-N-valeryl-L-valine, 0.115 g (0.61 mmol) of 2-(1H-tetrazol-5-yl)phenylboronic acid, 0.017 g (0.024 mmol) of bis(triphenylphosphine)palladium chloride and 0.115 g (2.87 mmol) of NaOH in 2.4 mL of methanol and 0.7 mL of water are added. The reaction is heated to 70° C. under nitrogen atmosphere. Once 3 h has elapsed the reaction is considered to be completed and the methanol is distilled. The crude product is treated with 25 mL of HCl 1N and 25 mL of AcOEt. The AcOEt phase is dried with anhydrous sodium sulphate and after distilling the solvent the crude product obtained is purified by silica gel chromatography (eluent AcOEt/heptane/AcOH 1.5:5:0.2) to provide 0.178 g (85%) of Valsartan.

reactant | N-(4-iodobenzyl)-N-valeryl-L-valine | 0.48 mmol, 0.20 g | IC1=CC=C(CN([C@@H](C(C)C)C(=O)O)C(CCCC)=O)C=C1 | C17H24INO3
reactant | 2-(1H-tetrazol-5-yl)phenylboronic acid | 0.61 mmol, 0.115 g | N1N=NN=C1C1=C(C=CC=C1)B(O)O | C7H7BN4O2
reactant | NaOH | 2.87 mmol, 0.115 g | [OH-].[Na+]
solvent | methanol | 2.4 mL | CO | CH4O
solvent | water | 0.7 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium chloride | 0.024 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Valsartan | 0.178 g, 85% | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
